Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
syncope  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ healthy woman who presents with multiple 
syncopal episodes & new onset atrial fibrillation with HRs in 
100s-130s.  
 Over the past week, she has had 10 syncopal episodes. All 
episodes are without prodrome. No preceding dizziness or 
lightheadness. In the most recent episode on ___, she stood 
up from her bed to walk to her dresser. The next thing she knew, 
she was on the floor after falling forward & hitting her face, 
and then losing consciousness. No incontinence. No confusion 
post-fall.  
 Earlier today, she presented to her PCP, and was found to have 
new-onset atrial fibrillation with HRs in the 100s-130s. She 
denies any fevers, chest pain, shortness of breath, abdominal 
pain, nausea, vomiting, diarrhea, or dysuria.  
 - In the ED initial vitals were: 97.9 138 120/78 18 98% RA  
 - ___ ecchymosis, tenderness over L orbital floor  
 - EKG: AF @ 132, no STE, STD in V4-V6  
 - Labs/studies notable for: trop <0.01, K 2.9 -> 3.2, Na 120  
 - Patient was given:  
 ___ 11:28 IV Diltiazem 15 mg ___  
 ___ 14:56 PO Potassium Chloride 40 mEq ___  
 ___ 15:46 IVF 40 mEq Potassium Chloride / 1000 mL NS  
 ___ 15:49 PO Diltiazem 30 mg ___  
 - Vitals on transfer: 99 101/65 18 99% RA  
 - On the floor, she feels very well. No chest pain, orthopnea, 
shortness of breath, palpitations, or lightheadedness. She says 
that doctors have known she has an irregular heart rhythm for 
years, but she has never been diagnosed with Afib and has never 
been on heart medications.  
 REVIEW OF SYSTEMS:  
 Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope, or presyncope.  
 On further review of systems, denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. Denies exertional 
buttock or calf pain. Denies recent fevers, chills or rigors. 
All of the other review of systems were negative.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: No HTN, DM, or HLD  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
- Anxiety  
- GERD  

 
Social History:
___
Family History:
Mother died in her ___ of CAD. Otherwise, no family history of 
early MI, arrhythmia, cardiomyopathies, or sudden cardiac death
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==========================
Vitals: BP: 106/63 HR: 105 RR: 18 SaO2: 95
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear, left eye 
contains significant ecchymosis, also slight ecchymosis on right 
eye.    
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: irregular rate and rhythm, normal S1 + S2, 
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal  
LABS: Reviewed, please see below

DISCHARGE PHYSICAL EXAM:
========================== 
Vitals: Temperature: 98.2 BP: 122/75 HR: 93 RR: 16 SaO2: 98
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear, left eye 
contains significant ecchymosis, also slight ecchymosis on right 
eye.    
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: irregular rate and rhythm, normal S1 + S2, 
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
LABS ON ADMISSION:
====================
___ 11:05AM BLOOD WBC-12.6* RBC-4.58 Hgb-13.7 Hct-37.9 
MCV-83 MCH-29.9 MCHC-36.1 RDW-12.9 RDWSD-38.9 Plt ___
___ 11:05AM BLOOD Neuts-63.5 ___ Monos-14.7* 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-8.02* AbsLymp-2.63 
AbsMono-1.85* AbsEos-0.02* AbsBaso-0.03
___ 11:05AM BLOOD ___ PTT-28.7 ___
___ 11:05AM BLOOD Glucose-131* UreaN-10 Creat-0.6 Na-123* 
K-2.9* Cl-75* HCO3-36* AnGap-15
___ 11:05AM BLOOD cTropnT-<0.01
___ 11:05AM BLOOD Calcium-9.2 Phos-2.6* Mg-2.0
___ 11:21AM BLOOD Lactate-1.7 Na-120* K-3.2*

LABS ON DISCHARGE:
======================
___ 06:35AM BLOOD WBC-9.2 RBC-3.36* Hgb-10.1* Hct-29.7* 
MCV-88 MCH-30.1 MCHC-34.0 RDW-14.1 RDWSD-45.1 Plt ___
___ 06:35AM BLOOD Plt ___
___ 06:35AM BLOOD Glucose-98 UreaN-9 Creat-0.5 Na-133 K-4.0 
Cl-94* HCO3-28 AnGap-15
___ 06:35AM BLOOD Calcium-8.4 Phos-2.9 Mg-2.0

IMAGING:
============
CT orbit ___:
IMPRESSION: 
1. Comminuted, mildly-depressed fracture of the left orbital 
floor fracture with approximately 2 mm inferior displacement of 
the lateral fracture fragment.  Associated high-density material 
completely opacifying the left maxillary sinus likely reflects 
blood component. 
2. Mild left preseptal and infraorbital soft tissue swelling.  
No discrete 
fluid collection identified within the limitations of an 
unenhanced study. 
  
CT Head w/o contrast ___:
IMPRESSION: 
1. Cortical irregularity along the left orbital floor with 
complete 
opacification of the partially-visualized left maxillary sinus 
is better 
assessed on same-day facial CT, concerning for orbital floor 
fracture. 
2. Mild asymmetric left infraorbital and periorbital soft tissue 
swelling. No retrobulbar hematoma or fat stranding. Recommend 
correlation with physical exam findings. 
3. No acute intracranial abnormalities. 

 
Brief Hospital Course:
___ year old woman with history of an unknown arrhythmia in the 
past, who presents with multiple syncopal episodes found to have 
new atrial tachycardia. 

# Atrial Tachycardia:
Patient was found to have atrial tachycardia on EKG. Unclear if 
this was new as patient noted prior history of fast and 
irregular heart rate. The patient was evaluated by cardiology 
who recommend starting metoprolol succinate 25 mg daily with 
plan for event monitoring and echo as an outpatient. Plan for 
patient to follow up with Dr. ___ ___ cardiology in 
clinic. Appointment to be made and patient called with this 
information in next week. Event monitor to be mailed to 
patient's home. 

# Left orbital floor fracture
She was found to have a left orbital floor fracture on CT 
imaging with evidence of blood component. Plastic surgery 
evaluated patient and recommended follow up in their clinic in 2 
weeks with number provided. 

# SYNCOPE: 
Patient presented with multiple falls, including one with a head 
strike & loss of consciousness. Unclear cause of syncope though 
work up showed atrial tachycardia though unclear if this was 
new. Orthostatic vital signs noted to be negative. Tox screen 
also noted to negative. Plan for event monitor as above. Patient 
counseled about not driving for 6 months pending further work up 
syncope given possible loss of consciousness with this syncopal 
episode.

# Transamintis:
Patient also noted to have transaminitis prior to transfer to 
___ AST 107 and ALT 134. On recheck at ___ noted to be ALT 
108 AST 75 and stable. Hep C antibody in outpatient records on 
___ checked and noted to be low positive with negative 
subsequent viral load. Would recommend further work up of this 
as an outpatient. 

# Hyponatremia
Patient with hyponatremia to 123 on admission on recheck noted 
to be 130. Urine sodium noted to be 20 and urine osm showed 103 
most consistent with psychogenic polydipsia. She noted that she 
was drinking up to 6L of water daily prior to coming to the 
hospital. Prior to leaving the hospital sodium normalized. We 
recommended cutting back on water intake by at least half. 

# Anxiety:
-continued lorazepam per home regimen

TRANSITIONAL ISSUES:
====================
-metoprolol succinate 25 mg daily started
-chem-10 to be checked at time of follow up appointment with PCP 
to ensure normalized sodium level. Sodium on discharge of 133.
-please recheck LFT's on follow up: ALT 108 AST 75. Would 
recommend further work up of transaminitis as outpatient
-event monitored ordered and will be sent to patients home
-echocardiogram to occur as outpatient
-follow up with Dr. ___ to be scheduled and patient called 
with appointment 
-please see plastic surgery concerning left orbital floor 
fracture (___). Should be seen in next 2 weeks. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin B Complex 1 CAP PO DAILY 
2. LORazepam 0.5-1 mg PO Q8H:PRN anxiety 
3. Ranitidine 150 mg PO BID 
4. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  LORazepam 0.5-1 mg PO Q8H:PRN anxiety  
3.  Multivitamins 1 TAB PO DAILY  
4.  Ranitidine 150 mg PO BID  
5.  Vitamin B Complex 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Atrial Tachycardia
Syncope
Hyponatremia
left orbital floor fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital after falling and were found to have a 
rapid heart rate called atrial tachycardia. We started you on a 
medication called metoprolol to help slow down your heart rate. 
We recommend that you follow up with Dr. ___ Cardiologist 
you saw in the hospital. He will order an echocardiogram for you 
and an event monitor that will be mailed to your house to 
monitor your heart rate. Dr. ___ will call you to set 
up a follow up appointment in one month.

We also discussed with you that it is not safe to drive as you 
have had multiple episodes of passing out and until the cause of 
this is found it is not safe for you to drive for at least a 6 
month period. 

You also had lab abnormalities including a low sodium level.  
The levels corrected without intervention.  You has no seizures 
or altered mental status despite you low sodium. 

Your ___ Team,
 
Followup Instructions:
___